US04910212
A mixture of methyl (1R*,2R*)-1,2,3,4-tetrahydro-6-methoxy-2-(4-methoxyphenyl)-1-naphthylmethanesulphonate (1 g), imidazole (1.2 g) and potassium carbonate (1.2 g) in acetonitrile (75 ml) was stirred and heated under reflux for 24 h. The acetonitrile was evaporated under reduced pressure, and the residue was dissolved in a mixture of ethyl acetate (50 ml) and water (50 ml). The organic layer was separated, and the aqueous layer was extracted twice with ethyl acetate (50 ml). The combined ethyl acetate extracts were dried and evaporated to dryness, and the residue was purified by flash column chromatography on silica (K60), using ethyl acetate: toluene (1:4 by volume), then ethyl acetate as the eluting solvent, to give (1R*,2R*)-1,2,3,4-tetrahydro-1-(1H-imidazol-1-ylmethyl)-6-methoxy-2-(4-methoxyphenyl)naphthalene as a colourless gum, which crystallised on standing, m.p. 114°.

reactant | methyl (1R*,2R*)-1,2,3,4-tetrahydro-6-methoxy-2-(4-methoxyphenyl)-1-naphthylmethanesulphonate | 1 g | COC=1C=C2CC[C@H]([C@H](C2=CC1)CS(=O)(=O)OC)C1=CC=C(C=C1)OC | C20H24O5S
reactant | imidazole | 1.2 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | (1R*,2R*)-1,2,3,4-tetrahydro-1-(1H-imidazol-1-ylmethyl)-6-methoxy-2-(4-methoxyphenyl)naphthalene | N1(C=NC=C1)C[C@@H]1[C@@H](CCC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC | C22H24N2O2
